US07214681B2
Preparation 9: (E)-2-(4-Bromophenyl)-3-furan-2-ylacrylic acid
A mixture of 4-bromophenylacetic acid (12.90 g, 60.0 mmol), 2-furancarboxaldehyde (6.0 mL, 72.0 mmol), NEt3 (12.0 mL, 86.4 mmol), and Ac2O (12.0 mL, 127.2 mmol) were heated at 140° C. (bath) with stirring for 1¾ h. The reaction mixture was cooled in an ice bath, before being treated with 2M HCl (30 mL) to adjust the pH to 1. A solid precipitated out of solution. This solid was extracted into Et2O (500 mL). The Et2O layer was washed with H2O (100 mL), before being extracted with 5% w/v aqueous Na2CO3 solution (5×100 mL). The aqueous extracts were washed with Et2O (2×50 mL), before being carefully acidified with AcOH to pH 6. The cream solid generated was collected, washed with H2O, and recrystallised from MeOH—H2O to give the title compound: m/z (ES+)=604.0 [2M+NH4]+.

reactant | 4-bromophenylacetic acid | 60.0 mmol, 12.90 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | 2-furancarboxaldehyde | 72.0 mmol, 6.0 mL | O1C(=CC=C1)C=O | C5H4O2
reactant | NEt3 | 86.4 mmol, 12.0 mL | CCN(CC)CC | C6H15N
reactant | Ac2O | 127.2 mmol, 12.0 mL | CC(=O)OC(=O)C | C4H6O3
solvent | HCl | 2M, 30 mL | Cl | ClH
product | (E)-2-(4-Bromophenyl)-3-furan-2-ylacrylic acid | BrC1=CC=C(C=C1)/C(/C(=O)O)=C\C=1OC=CC1 | C13H9BrO3
